US04990511
To a solution (20 ml) of 4-benzylpiperidine (423 mg) and 2,4-dibenzyloxyphenylacetic acid (700 mg) in N,N-dimethylformamide are added triethylamine (0.56 ml) and diethyl cyanophosphate (393 mg) and the mixture is stirred at room temperature for 15 minutes. Water is added and stirring carried out for 10 minutes, followed by extraction of the product with dichloromethane. The dichloromethane layer is washed with water and dried over anhydrous sodium sulfate. The solvent is distilled off. The residue is subjected to purification by silica gel column chromatography. 1-(2,4-Dibenzyloxyphenylacetyl)-4-benzylpiperidine (1.0 g) in the colorless oily form is obtained from a fraction eluted with dichloromethane-ethyl acetate mixture (8:1).

reactant | 4-benzylpiperidine | 20 ml, 423 mg | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | 2,4-dibenzyloxyphenylacetic acid | 700 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CC(=O)O | C22H20O4
reactant | triethylamine | 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphate | 393 mg | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 1-(2,4-Dibenzyloxyphenylacetyl)-4-benzylpiperidine | 1.0 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CC(=O)N1CCC(CC1)CC1=CC=CC=C1 | C34H35NO3
